US08258140B2
2-Bromoethanol (7.34 mL, 103.38 mmol) was added to a stirred mixture of (R)-1-acetyl-2-methylpiperazine (2.94 g, 20.68 mmol) and potassium carbonate (8.57 g, 62.03 mmol) in THF (75 mL). The resulting mixture was stirred at 80° C. for 18 hours before, then filtered and evaporated. The residue was purified by ion exchange chromatography, using an SCX column and eluting with 2M ammonia in methanol. Pure fractions were evaporated to dryness to give (R)-2-(4-acetyl-3-methylpiperazin-1-yl)ethanol (3.74 g, 97%) as a yellow oil.

reactant | 2-Bromoethanol | 103.38 mmol, 7.34 mL | BrCCO | C2H5BrO
reactant | (R)-1-acetyl-2-methylpiperazine | 20.68 mmol, 2.94 g | C(C)(=O)N1[C@@H](CNCC1)C | C7H14N2O
reactant | potassium carbonate | 62.03 mmol, 8.57 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | (R)-2-(4-acetyl-3-methylpiperazin-1-yl)ethanol | 3.74 g, 97% | C(C)(=O)N1[C@@H](CN(CC1)CCO)C | C9H18N2O2
